US05091397
(±) 3-Formyl-1-azabicyclo[2.2.2]octane (D32)
(±) 3-(N-Methyl-N-methoxyaminocarbonyl)-1-azabicyclo[2.2.2]octane (D31) (6.0g, 0.03 moles) was dissolved in dry toluene (250ml) and cooled to -70° C. under a nitrogen atmosphere. Diisobutylaluminium hydride (1.5M solution in toluene (45ml, 0.068 moles) was added dropwise. The reaction was then allowed to warm to room temperature over a period of 2h. Hydrochloric acid (2N, 300ml) was added rapidly with vigorous stirring. The aqueous layer was saturated with potassium carbonate and the mixture extracted with chloroform (3×250ml). The combined extracts were dried (Na2SO4) and evaporated to dryness. The residue was distilled in a Kugelrohr to yield the title compound (D32) as a colourless oil (3.6g, 85%) b.p. 100° C. at 1.0

reactant | (±) 3-(N-Methyl-N-methoxyaminocarbonyl)-1-azabicyclo[2.2.2]octane | 0.03 moles, 6.0g | CN(C(=O)C1CN2CCC1CC2)OC | C10H18N2O2
reactant | Diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Hydrochloric acid | 2N, 300ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 250ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.068 moles, 45ml | C1(=CC=CC=C1)C | C7H8
product | (±) 3-Formyl-1-azabicyclo[2.2.2]octane | C(=O)C1CN2CCC1CC2 | C8H13NO
